US09376442B2
N-[(1R*,2R*,4S*)-4-Azido-2-methylcyclopentyl]-4-[2-(cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from 4-[2-(cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (example D.g1) and (1S*,2S*,4R*)-4-azido-2-methylcyclopentanamine hydrochloride (example C34) the title compound is obtained as pale yellow foam.

reactant | 4-[2-(cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C1(CC1)COC1=C(C=C(C=C1)C(F)F)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)O | C19H17F2N3O3
reactant | (1S*,2S*,4R*)-4-azido-2-methylcyclopentanamine hydrochloride | Cl.N(=[N+]=[N-])[C@@H]1C[C@@H]([C@H](C1)N)C
product | N-[(1R*,2R*,4S*)-4-Azido-2-methylcyclopentyl]-4-[2-(cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | N(=[N+]=[N-])[C@H]1C[C@H]([C@@H](C1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=CC(=C2)C(F)F)OCC2CC2)C)C | C25H27F2N7O2
